US08455488B2
Synthesis of (S)-1,1-diethoxy-N-(naphthalen-1-ylmethyl)propan-2-amine (Compound IX-2)
To the solution of (S)-1,1-diethoxypropan-2-amine (Compound XIX-1) 682 mg (3.55 mmol) in tetrahydrofuran 2 ml, 1-naphthaldehyde 554 mg (3.55 mmol) was added and stirred at room temperature for 0.5 hour. The reaction mixture was diluted with tetrahydrofuran 3 ml and sodium triacetoxyborohydride 829 mg (3.91 mmol) was added and stirred at room temperature for 18 hours. The reaction mixture was diluted with ethyl acetate 50 ml and washed with saturated sodium bicarbonate aq. 50 ml twice, water 50 ml twice and brine 50 ml twice. The organic phase was dried with magnesium sulfate and filtered and the mother solution was concentrated in vacuo to obtain the title compound 685 mg (67.1%).

reactant | (S)-1,1-diethoxypropan-2-amine | 3.55 mmol, 682 mg | C(C)OC([C@H](C)N)OCC | C7H17NO2
reactant | 1-naphthaldehyde | 3.55 mmol, 554 mg | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium triacetoxyborohydride | 3.91 mmol, 829 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (S)-1,1-diethoxy-N-(naphthalen-1-ylmethyl)propan-2-amine | 685 mg, 67.1% | C(C)OC([C@H](C)NCC1=CC=CC2=CC=CC=C12)OCC | C18H25NO2
